US08440693B2
Intermediate 88.1: 1-[(S)-1-(4-Bromo-phenyl)-ethyl]-4-(toluene-4-sulfonyl)-piperazine
A mixture of (S)-1-(4-bromophenyl)ethanamine (0.36 ml, 2.50 mmol) and N,N-bis(2-chloroethyl)-4-methylbenzenesulfonamide (864 mg, 2.62 mmol) in DIPEA (0.873 ml, 5.0 mmol) was heated at 125° C. and stirred for 20 h. The reaction mixture was cooled to RT then diluted into DCM (30 ml) and washed with Na2CO3 2M in water (40 ml). The aqueous phase was further extracted with DCM (3×20 ml) and the combined organic fractions were dried over Na2SO4, filtered and evaporated to dryness. AcOEt was added in small portions into a hot mixture of the crude in heptane until complete dissolution. The mixture was allowed to cooled to RT during which time precipitation occurred. The mixture was cooled to 0° C. (ice bath) for 30 min then filtered. The solid was washed with heptane, dried under air and finally under high vacuum to yield the title compound (810 mg, 1.91 mmol, 77% yield) as a brownish solid. HPLC: AtRet=1.66 min; LC-MS: m/z 425.4 [M+H]+; 1H NMR (400 MHz, CDCl3): 1.29 (d, J=6.8, 3H), 2.41-2.50 (m, 5H), 2.52-2.61 (m, 2H), 2.93-3.05 (m, 4H), 3.34 (q, J=6.7, 1H), 7.09-7.16 (m, 2H), 7.31-7.37 (m, 2H), 7.39-7.44 (m, 2H), 7.61-7.66 (m, 2H).

reactant | (S)-1-(4-bromophenyl)ethanamine | 2.50 mmol, 0.36 ml | BrC1=CC=C(C=C1)[C@H](C)N | C8H10BrN
reactant | N,N-bis(2-chloroethyl)-4-methylbenzenesulfonamide | 2.62 mmol, 864 mg | ClCCN(S(=O)(=O)C1=CC=C(C=C1)C)CCCl | C11H15Cl2NO2S
reactant | DIPEA | 5.0 mmol, 0.873 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
product | 1-[(S)-1-(4-Bromo-phenyl)-ethyl]-4-(toluene-4-sulfonyl)-piperazine | 1.91 mmol, 810 mg, 77% yield | BrC1=CC=C(C=C1)[C@H](C)N1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)C | C19H23BrN2O2S
